US07947691B2
N-[3′-(3-Hydroxy-2,4-dioxo-3,4-dihydro-2H-thieno[3,2-d]pyrimidin-1-ylmethyl)-biphenyl-3-yl]-acetamide
The title compound was prepared from 1-(3-Bromo-benzyl)-3-hydroxy-1H-thieno[3,2-d]pyrimidine-2,4-dione (from previous example) and 3-acetamino-phenyl boronic acid via general procedure C. The crude product was purified by mass-triggered preparative HPLC.

reactant | 1-(3-Bromo-benzyl)-3-hydroxy-1H-thieno[3,2-d]pyrimidine-2,4-dione | BrC=1C=C(CN2C(N(C(C3=C2C=CS3)=O)O)=O)C=CC1 | C13H9BrN2O3S
reactant | 3-acetamino-phenyl boronic acid | N(C(=O)C)C=1C=C(C=CC1)B(O)O | C8H10BNO3
product | N-[3′-(3-Hydroxy-2,4-dioxo-3,4-dihydro-2H-thieno[3,2-d]pyrimidin-1-ylmethyl)-biphenyl-3-yl]-acetamide | ON1C(N(C2=C(C1=O)SC=C2)CC=2C=C(C=CC2)C2=CC(=CC=C2)NC(C)=O)=O | C21H17N3O4S
